US06677378B2
4,5-Dimethoxy-2-Fluorobenzaldehyde
In a flame-dried, round-bottomed flask fitted with a magnetic stirrer and N2 inlet was placed 4-fluoroveratrole (0.78 g, 5.0 mmol, Aldrich Chemical Co.) in 20 ml of anhydrous CH2Cl2. After cooling to 0° C., titanium (IV) chloride (0.91 ml, 1.57 g, 8.3 mmol) was added, followed after 10 min. by a,a-dichloromethyl methyl ether (0.45 ml, 0.575 g, 5.0 mmol). The mixture was allowed to warm to room temperature and after 2 hr it was quenched with an excess of aqueous saturated NaHCO3. The suspension was filtered through a pad of d.e. (diatomaceous earth), the aqueous phase was extracted with additional amounts of CH2Cl2 and the organic phases were combined and washed with water followed by saturated aqueous NaCl. After drying with MgSO4, the organic solvent was removed in vacuo to give the title compound as a white solid, 910 mg.

reactant | 4-fluoroveratrole | 5.0 mmol, 0.78 g | FC=1C=C(C(=CC1)OC)OC | C8H9FO2
reactant | a,a-dichloromethyl methyl ether | 5.0 mmol, 0.45 ml, 0.575 g | COC(Cl)Cl | C2H4Cl2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium (IV) chloride | 8.3 mmol, 0.91 ml, 1.57 g | [Ti](Cl)(Cl)(Cl)Cl
product | 4,5-Dimethoxy-2-Fluorobenzaldehyde | COC1=CC(=C(C=O)C=C1OC)F | C9H9FO3
